US07615568B2
E. 2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-(methylthio)benzoic acid
The methyl 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(methylthio)benzoate (504 mg, 1.32 mmol) was dissolved in a mixture of 1 M aq LiOH (2 mL), MeOH (2 mL), and THF (6 mL) and left to stir overnight. The mixture was concentrated in vacuo to remove MeOH and THF. The residue was diluted with dichloromethane (50 mL), washed with saturated aqueous citric acid (2×5 mL) and water (2×5 mL), dried over sodium sulfate, filtered, and concentrated to give the desired product as a yellow solid (417 mg, 1.13 mmol, 86%).

reactant | methyl 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(methylthio)benzoate | 1.32 mmol, 504 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)OC)C=CC(=C1)SC | C19H27NO5S
solvent | LiOH | 1 M, 2 mL | [Li+].[OH-]
solvent | MeOH | 2 mL | CO | CH4O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-(methylthio)benzoic acid | 1.13 mmol, 417 mg, 86% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)O)C=CC(=C1)SC | C18H25NO5S
